US06593322B1
A. 1-Acetyl-4-(4-{[2-(4-fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)piperazine
A mixture of 1-(4-bromobenzyl)-6-phenylmethoxy-2-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline (1.0 g, 1.99 mmol), dibenzylideneacetone palladium (36 mg, 0.04 mmol), BINAP (74 mg, 0.12 mmol), sodium tert-butoxide (0.29 g, 3.0 mmol) and N-acetylpiperazine (0.38 g, 3.0 mmol) in 2 ml of toluene were added to a sealed tube under an argon atmosphere and heated at 80° C. for 16 h. The sealed tube was cooled to room temperature and the contents of the tube transferred to a separatory funnel. Ethyl acetate and water were added and the organic layer was separated. The combined organic layers were dried over MgSO4, concentrated, and purified by column chromatography (SiO2, chloroform/methanol, 99:1) to provide the title compound (0.45 g, 41% yield): ES-MS (m/z) 550 [M+H]+.

reactant | 1-(4-bromobenzyl)-6-phenylmethoxy-2-(4-fluorophenyl)-1,2,3,4-tetrahydroisoquinoline | 1.99 mmol, 1.0 g | BrC1=CC=C(CC2N(CCC3=CC(=CC=C23)OCC2=CC=CC=C2)C2=CC=C(C=C2)F)C=C1 | C29H25BrFNO
reactant | BINAP | 0.12 mmol, 74 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
reactant | sodium tert-butoxide | 3.0 mmol, 0.29 g | CC(C)([O-])C.[Na+]
reactant | N-acetylpiperazine | 3.0 mmol, 0.38 g | C(C)(=O)N1CCNCC1 | C6H12N2O
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dibenzylideneacetone palladium | 0.04 mmol, 36 mg | [Pd].C(C1=CC=CC=C1)=CC(=O)C=CC1=CC=CC=C1
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-Acetyl-4-(4-{[2-(4-fluorophenyl)-6-(phenylmethoxy)(1,2,3,4-tetrahydroisoquinolyl)]methyl}phenyl)piperazine | 0.45 g, 41% yield | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)CC1N(CCC2=CC(=CC=C12)OCC1=CC=CC=C1)C1=CC=C(C=C1)F | C35H36FN3O2
